US07834043B2
2-methyl-6-(tributylstannyl)pyridine
A solution containing 2-bromo-6-methylpyridine (1.48 g, 8.63 mmol) in ether (15 mL) at −78° C. was treated with n-butyllithium (5.39 mL, 1.6 M in hexanes) dropwise, stirred at −78° C. for 1 hour, treated with tributyltin chloride (4.21 mL, 12.94 mmol), stirred at −78° C. for 4 hours, quenched with saturated ammonium chloride solution, and partitioned between ether and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on neutral alumina eluting with 10% ethyl acetate in dichloromethane to give the title compound.

reactant | 2-bromo-6-methylpyridine | 8.63 mmol, 1.48 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | n-butyllithium | 1.6 M, 5.39 mL | C(CCC)[Li]
reactant | tributyltin chloride | 12.94 mmol, 4.21 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-methyl-6-(tributylstannyl)pyridine | CC1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H6N.3C4H9.Sn/c1-6-4-2-3-5-7-6;3*1-3-4-2;/h2-4H,1H3;3*1,3-4H2,2H3;
